US04393228
When 0.65 g of epoxysuccinic acid monoallylester chloride which was prepared from 1.0 g of allyl potassium epoxysuccinate (i.e. allyl potassium oxirane 2,3-dicarboxylate) by treatment with oxalyl chloride in a manner as described in Example 46 was reacted with L-tyrosine benzyl ester in dichloromethane by the method as described in Example 46, N-(3-allyloxycarbonyloxirane-2-carbonyl)-L-tyrosine benzyl ester(EP-147) was obtained as a colorless oil. Yield 1.0 g (68%). Mass: m/e 425 (M+). IRνfilm (cm-1): 3480 (amine, hydroxy), 1755 (ester), 1685, 1525 (amide), 1625 (C=C), 895 (epoxide). NMR(CDCl3)δ: 2.98 (2H, d, J=6 Hz), 3.19 (0.5H, d, J=2 Hz), 3.43 (0.5H, d, J=2 Hz), 3.58 (0.5H, d, J=2 Hz), 3.61 (0.5H, d, J=2 Hz), 4.5-6.2 (6H, m), 5.08 (2H, d, J=3 Hz), 6.25-7.0 (4H, m), 7.25 (5H, s).

reactant | allyl potassium epoxysuccinate | 1.0 g | O1C(C(=O)O)C1C(=O)O.C(C=C)[K]
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | L-tyrosine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C16H17NO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | epoxysuccinic acid monoallylester chloride | 0.65 g | [Cl-].C(C=C)OC(C1C(C(=O)O)O1)=O | InChI=1S/C7H8O5.ClH/c1-2-3-11-7(10)5-4(12-5)6(8)9;/h2,4-5H,1,3H2,(H,8,9);1H/p-1
